US07067540B2
3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-(pyridin-3-ylmethyl)pyridin-2 (1H)-one
To a degassed cold solution of DMF (10 mL) and PPh3 (resin, 2.2 g, 6.6 mmol) was added DEAD (1.038 mL, 6.6 mmol). The reaction mixture stirred at −10° C. for 20 minutes under nitrogen. A solution of 3-chloro-4-hydroxy-6-methyl-1-(pyridin-3-ylmethyl)pyridin-2(1H)-one (1.00 g, 4.0 mmol) and 2,4-difluorobenzylalcohol (0.66 mL, 6.0 mmol) in DMF (10 mL) was added to the resin suspension. The reaction mixture stirred at −10° C. for 30 minutes and then allowed to stir at room temperature for 1 hour. The resin was filtered and rinsed with fresh MeOH and the filtrate concentrated. The residue was dissolved in ethyl acetate and purified by flash column chromatography (5% methanol in ethyl acetate). The appropriate fractions were concentrated. 1H-NMR (CD3OD, 400 MHz) δ 8.45 (ddd, 2H, J=1.6 Hz, 1.6 Hz, 1.6 Hz), 7.61 (m, 2H), 7.41 (dd, 1H, J=4.4 Hz, 4.8 Hz), 7.02 (m, 2H), 6.55 (s, 1H), 5.43 (s, 2H), 5.29 (s, 2H), 2.41 (s, 3H); ES-HRMS m/z 377.0882/379.0840 (M+H calculated for C19H16N2O2F2Cl requires 377.0863/379.0840).

reactant | PPh3 | 6.6 mmol, 2.2 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 6.6 mmol, 1.038 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 3-chloro-4-hydroxy-6-methyl-1-(pyridin-3-ylmethyl)pyridin-2(1H)-one | 4.0 mmol, 1.00 g | ClC=1C(N(C(=CC1O)C)CC=1C=NC=CC1)=O | C12H11ClN2O2
reactant | 2,4-difluorobenzylalcohol | 6.0 mmol, 0.66 mL | FC1=C(CO)C=CC(=C1)F | C7H6F2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-(pyridin-3-ylmethyl)pyridin-2 (1H)-one | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1C=NC=CC1)=O | C19H15ClF2N2O2
